US04152136
3,5-diphenyl-4(1H)-pyridone
A 1.4 g. portion of 1,3-diphenyl-2-propanone was mixed with 1.0 g. of tris(formylamino)methane in 20 ml. of dimethylformamide. The reaction mixture was stirred at reflux temperature for 3 hours. The mixture was then cooled to approximately room temperature, and poured into water. The precipitated solids were separated by filtration, and the solids were suspended in chloroform. The chloroform was then filtered, and the solids remaining were washed first with water, and then with chloroform. The yield was about 100 mg. of 3,5-diphenyl-4(1H)-pyridone, m.p. greater than 335° C.

reactant | 1,3-diphenyl-2-propanone | C1(=CC=CC=C1)CC(CC1=CC=CC=C1)=O | C15H14O
reactant | tris(formylamino)methane | C(=O)NC(NC=O)NC=O | C4H7N3O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,5-diphenyl-4(1H)-pyridone | C1(=CC=CC=C1)C1=CNC=C(C1=O)C1=CC=CC=C1 | C17H13NO
